US04623662
1-[(4-Butylphenyl)methyl]-3-(4-chloro-2-methylphenyl)-1-[6-[(methylsulfonyl)oxy]hexyl]urea
To a cooled solution (0°-5° C.) of 5.24 g of 1-[(4-butylphenyl)methyl]-3-(4-chloro-2-methylphenyl)-1-(6-hydroxyhexyl)urea and 4.0 ml of triethylamine in 65 ml of dichloromethane was added dropwise a solution of 1.2 ml of methanesulfonyl chloride in 10 ml of dichloromethane. The resulting solution was gradually warmed to room temperature, then was stirred for 16 hours. The procedure of Example 515 was continued and gave 6.0 g of the desired product as a light brown oil in 97% yield.

reactant | 1-[(4-butylphenyl)methyl]-3-(4-chloro-2-methylphenyl)-1-(6-hydroxyhexyl)urea | 5.24 g | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1)Cl)C)CCCCCCO | C25H35ClN2O2
reactant | triethylamine | 4.0 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.2 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 65 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-[(4-Butylphenyl)methyl]-3-(4-chloro-2-methylphenyl)-1-[6-[(methylsulfonyl)oxy]hexyl]urea | 6.0 g, 97% yield | C(CCC)C1=CC=C(C=C1)CN(C(=O)NC1=C(C=C(C=C1)Cl)C)CCCCCCOS(=O)(=O)C | C26H37ClN2O4S
